* Z:\mnt\design.r\spice\examples\3355.asc
XU1 N005 N006 NC_01 IN N004 N001 N003 N002 NC_02 NC_03 N008 N010 NC_04 CAP OUT N007 MP_05 N002 N009 N011 0 LTC3355
V1 IN 0 12
C1 N001 N004 1µ
C2 0 N002 1µ
R1 N004 IN .091
R2 IN N005 2.49Meg
R3 N005 0 200K
R4 N010 0 60.4K
R5 N011 0 200K
C3 N009 0 220p
L1 N003 OUT 6.8µ
D1 0 N003 B520C
R6 OUT N006 402K
R7 N006 0 100K
C4 OUT 0 47µ
C5 OUT N006 4.7p
Rload OUT 0 50
L2 N007 CAP 3.3µ
R8 CAP N008 665K
R9 N008 0 332K
CSCAP CAP 0 1m
D2 N007 OUT B520C
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LTC3355.sub
.backanno
.end
